US07858624B2
To a solution of (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-(methylsulfonyloxy)ethoxy)methyl)morpholine-4-carboxylate (554 mg, 1.0 mmol) in anhydrous DMF (18 mL), solid NaN3 (230 mg, 3.51 mmol) was added and the reaction mixture was heated to 70° C. for overnight. The reaction mixture was cooled to rt and diluted with EtOAc (110 mL), and water (30 ml). The organic phase was washed with water (3×30 mL), dried over Na2SO4 and evaporated to give (R)-tert-butyl 2-((S)-(2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (423 mg, 90%). MS (E/Z): 471 (M+H+)

reactant | (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-(methylsulfonyloxy)ethoxy)methyl)morpholine-4-carboxylate | 1.0 mmol, 554 mg | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCCOS(=O)(=O)C | C26H34FNO7S
reactant | NaN3 | 3.51 mmol, 230 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 18 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 110 mL | CCOC(=O)C | C4H8O2
solvent | water | 30 ml | O | H2O
product | (R)-tert-butyl 2-((S)-(2-azidoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 423 mg, 90% | N(=[N+]=[N-])CCO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C | C25H31FN4O4
